US04666938
Isopropyl N-(3,5-dimethyl-4-propionylphenyl)carbamate (2.63 g) and iodomethane (4.30 g) were dissolved in tetrahydrofuran (10 ml). The resultant solution was dropwise added to a solution containing potassium hydroxide (1.68 g) and tetra-n-butylammonium bromide (1.0 g). After being allowed to stand at room temperature for 12 hours, the reaction mixture was poured into ice-water and extracted with toluene. The extract was washed with water, dried over magnesiunm sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-methyl-N-(3,5-dimethyl-4-propionylphenyl)carbamate (Compound No. 40) (2.60 g) in a yield of 93.8%. nD20.0 1.5120.

reactant | Isopropyl N-(3,5-dimethyl-4-propionylphenyl)carbamate | 2.63 g | CC=1C=C(C=C(C1C(CC)=O)C)NC(OC(C)C)=O | C15H21NO3
reactant | iodomethane | 4.30 g | IC | CH3I
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetra-n-butylammonium bromide | 1.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | isopropyl N-methyl-N-(3,5-dimethyl-4-propionylphenyl)carbamate | yield of 93.8% | CN(C(OC(C)C)=O)C1=CC(=C(C(=C1)C)C(CC)=O)C | C16H23NO3
